US05187192
A solution of 3-(3-(4-fluorophenoxy)phenyl)cyclobutanone (2.59 g, 10.1 mmol) and hydroxylamine hydrochloride (844 mg, 12.1 mmol) in 1:1 ethanol:pyridine (50 mL) was stirred for 36 hours. It was then concentrated in vacuo. The residue was taken up in brine (50 mL) and extracted with ethyl acetate (3×50 mL). The organics were combined, dried over MgSO4 and concentrated to afford 3-(3-(4-fluorophenoxy)phenyl)cyclobutanone oxime which was used as is.

reactant | 3-(3-(4-fluorophenoxy)phenyl)cyclobutanone | 10.1 mmol, 2.59 g | FC1=CC=C(OC=2C=C(C=CC2)C2CC(C2)=O)C=C1 | C16H13FO2
reactant | hydroxylamine hydrochloride | 12.1 mmol, 844 mg | Cl.NO
reactant | ethanol | C(C)O | C2H6O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-(4-fluorophenoxy)phenyl)cyclobutanone oxime | FC1=CC=C(OC=2C=C(C=CC2)C2CC(C2)=NO)C=C1 | C16H14FNO2
